US07491713B2
Step D: 3-Azido-1-(cyclopropylmethyl)-5-phenylazepan-2-one
Sodium azide (0.24 g, 3.72 mmol) was added to a solution of 3-bromo-1-(cyclopropylmethyl)-5-phenylazepan-2-one (0.3 g, 0.93 mmol) in acetonitrile (4 mL) and water (1 mL), and the mixture heated to 100° C. After 18 h, the mixture was allowed to cool to ambient temperature and concentrated. Water was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with water (3×), saturated brine, dried over sodium sulfate, filtered and concentrated.

reactant | Sodium azide | 3.72 mmol, 0.24 g | [N-]=[N+]=[N-].[Na+]
reactant | 3-bromo-1-(cyclopropylmethyl)-5-phenylazepan-2-one | 0.93 mmol, 0.3 g | BrC1C(N(CCC(C1)C1=CC=CC=C1)CC1CC1)=O | C16H20BrNO
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | 1 mL | O | H2O
product | 3-Azido-1-(cyclopropylmethyl)-5-phenylazepan-2-one | N(=[N+]=[N-])C1C(N(CCC(C1)C1=CC=CC=C1)CC1CC1)=O | C16H20N4O
